US08304419B2
A solution of bis(1,1-dimethylethyl)(3-{[3-cyano-5-(methyloxy)phenyl]oxy}-2-fluoro-4-nitrophenyl)propanedioate (12.79 g, 25.5 mmol) in CH2Cl2 (25 ml) and TFA (25 ml, 324 mmol) was stirred at RT overnight. The reaction mixture was evaporated and the residue was dissolved in water and EtOAc. The aqueous layer was extracted with EtOAc. The organic layers were dried (Na2SO4), filtered, evaporated to give (3-{[3-cyano-5-(methyloxy)phenyl]oxy}-2-fluoro-4-nitrophenyl)acetic acid as a brown solid that was used without further purification. A solution of the above acid and Cu2O (0.74 g, 5.2 mmol) in acetonitrile (50 mL) was heated under reflux overnight. The reaction mixture was brought to RT, filtered through celite, evaporated and purified by silica gel chromatography (0-25% EtOAc/hexanes) to afford the title compound (2.20 g, 29%) as a light brown solid. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.77 (dd, J=8.61, 1.56 Hz, 1H) 6.85-6.90 (m, 1H) 6.73 (t, J=2.06 Hz, 1H) 6.65 (d, J=0.73 Hz, 1H) 3.80 (s, 3H) 2.39 (d, J=2.20 Hz, 3H).

reactant | bis(1,1-dimethylethyl)(3-{[3-cyano-5-(methyloxy)phenyl]oxy}-2-fluoro-4-nitrophenyl)propanedioate | 25.5 mmol, 12.79 g | CC(C)(C)OC(C(C(=O)OC(C)(C)C)C1=C(C(=C(C=C1)[N+](=O)[O-])OC1=CC(=CC(=C1)OC)C#N)F)=O | C25H27FN2O8
reactant | TFA | 324 mmol, 25 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
product | (3-{[3-cyano-5-(methyloxy)phenyl]oxy}-2-fluoro-4-nitrophenyl)acetic acid | C(#N)C=1C=C(C=C(C1)OC)OC=1C(=C(C=CC1[N+](=O)[O-])CC(=O)O)F | C16H11FN2O6
